Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Demerol / Ifosfamide
 
Attending: ___
 
___ Complaint:
Recurrent Follicular Cell Lymphoma:
Scheduled admission for EPOCH chemotherapy
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ woman with recurrent follicular cell 
lymphoma who presents today for scheduled chemotherapy with 
EPOCH.  Ms. ___ was recently discharged one week ago after 
receiving multiple blood transfusions for anemia. Prior to this 
admission she had just completed induction with Ofatumumab with 
ICE chemotherapy as part of a phase II study, which was 
complicated by nuerologic and nephrotoxicity due to the 
iphosphamide requiring transfer to the MICU.  She was treated 
with methylene blue and her neurologic and renal function 
returned to baseline. She was also noted to have aspirated 
during this hospitalization and was treated with a short course 
of antibiotics. At her post hospitalization clinic visit she was 
found to be anemic so she was admitted for blood transfusion. 
Since this admission she has done well.  She has experienced 
some fatigue since and noticed a 2 lb weight loss over the last 
week. Otherwise she denies any other symptoms.

 
Past Medical History:
ONCOLOGIC HISTORY:  ___ was diagnosed in ___ with a 
grade 3b follicular lymphoma after being noted to have 
hypercalcemia (18) and bulky lymphadenopathy.  Biopsy of a left 
inguinal node showed grade 3b follicular lymphoma with a MIB of 
50-60%, and she was treated with 6 cycles of R-CHOP completing 
therapy in ___. PET scan was negative at the completion of 
chemotherapy and her most recent prior CT scan was done in 
___ and also was negative for disease relapse.  However, in 
early ___, she underwent restaging CT done without 
contrast because of an elevated creatinine and she was found to 
have a large right pelvic sidewall mass (6.5 x 3.1 cm) causing 
obstruction of her ureter causing right hydronephrosis.  There 
was some soft tissue thickening along the posterior right 
lateral aspect of her bladder, a left pelvic side wall mass that 
was 2.8 cm, a right paraaortic lymph node that was 2.1 cm, a 
left paraaortic lymph node at 1.2 cm, and some left external 
iliac and inguinal lymphadenopathy as well as some other 
enlarged mesenteric lymph nodes.  She underwent 
ultrasound-guided biopsy again of a left inguinal lymph node, 
which again showed a grade 3 follicular lymphoma.  Her LDH and 
calcium had been within normal limits at previous oncologist 
visit, and she was sent here for further evaluation and 
consideration of autologous stem cell transplant. At 
presentation on ___ she developed hypercalcemic with a 
calcium of 11.4 an elevated LDH. She followed up locally with 
Dr. ___ labs and Zometa while decided whether or not to 
pursue treatment at ___.
.
Past Medical History:  Significant for hypertension, osteopenia,
and endometriosis.
.
Past Surgical History: Status post tonsillectomy and 
adenoidectomy in ___, status post appendectomy at age ___, 
status post TAH with BSO in ___, and status post right knee 
arthroscopy.
 
Social History:
___
Family History:
Her mother is deceased at age ___, she unsure of the cause.  Her 
father is deceased at age ___ from a brain tumor. She had a 
brother who is deceased from heart disease and a paternal cousin 
who is deceased from lung cancer.  Her son has no medical 
problems and she knows of no other cancer or blood disorder in 
the family.
 
Physical Exam:
GEN: Pleasant, sitting in no acute distress  

 
VS: T 97 BP 116/73 HR 65 RR 18 O2 98% RA  

 
HEENT: NCAT, EOMI, PERRL, sclera anicteric, conjunctiva pale, 

 
MMM, oropharynx clear, neck supple, no JVD, no thyromegaly.  

 
CV: RRR, normal S1 and S2, no m/r/g  

 
PULM: CTAB  

 
ABD: +BS, soft, non-tender, non-distended with no palpable  

 
masses.  

 
LIMBS: Warm, well-perfused, 2+ radial and DP pulses, no edema.  

 
SKIN: Dry skin on legs, no rashes.  

 
NEURO: A&Ox3

 

 
Pertinent Results:
___ 09:15AM   WBC-5.7 RBC-3.88* HGB-11.5* HCT-33.5* MCV-86 
MCH-29.6 MCHC-34.2 RDW-17.3*
___ 09:15AM   NEUTS-69.9 ___ MONOS-10.0 EOS-0.2 
BASOS-0.7
___ 09:15AM   UREA N-18 CREAT-1.0 SODIUM-141 POTASSIUM-3.8 
CHLORIDE-107 TOTAL CO2-24 ANION GAP-14
___ 09:15AM   PLT COUNT-373#
___ 09:15AM   ALBUMIN-4.0 CALCIUM-9.1 PHOSPHATE-3.6# 
MAGNESIUM-1.8 URIC ACID-2.8
___ 12:40PM URINE  RBC-479* WBC-11* BACTERIA-NONE 
YEAST-NONE EPI-8
___ 12:40PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-100 
GLUCOSE-TR KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 LEUK-TR
.
Echo ___:
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF 70%). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. There 
are focal calcifications in the aortic arch. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Mild to moderate (___) mitral regurgitation is seen. 
There is borderline pulmonary artery systolic hypertension. 
There is no pericardial effusion.  
 
Brief Hospital Course:
___ woman with recurrent follicular cell lymphoma who 
presents from for scheduled EPOCH chemotherapy.
.  
# Follicular Cell Lymphoma. Prior to starting her chemotherapy 
with EPOCH, a baseline echocardiogram was attained which showed 
that she had EF of 70%.  On day #1 she received Etoposide, 
doxorubisin, vincristine, and prednisone. On Day #5 she received 
cyclophorphamide and prednisone.  She tollerated this 
chemotherapy wothout any symptoms or side effects.  Tumor lysis 
labs were monitored and showed no evidence of tumor lysis.  She 
did not require any blood or platelet transfusions or have any 
fevers.  On day #6 she was discharged with instructions to start 
taking Neupogen in 2 days and continue neupogen until her clinic 
visit in 5 days.  At that time labs will be drawn and the 
decision can be made whether or not she should continue taking 
this medication..  
.  
# Hematuria. At admission, the pt denied seeing any blood in her 
urine since the ifosphamide toxicity.  On UA there was a large 
amount blood and 479 RBCs and 11 WBCs. A repeat UA showed less 
blood and only a few WBCs, no ___ or ___.  Repeat UA prior 
to discharge showed only a small amount of blood and 19 RBCs 
with < 1 WBC.
.  
# Hypertension:  The patient was continued on her home dose of 
atenolol, but her lisinopril and hydrochlorothiazide were held.  
She has not restarted those medications since her renal toxicity 
from the iphosphamide. She was noted to have blood pressures in 
the 150's systolic.  She will likely need to be restarted on her 
diuretics as an outpatient.
.  
# Weight gain:  The pt's weight was 132 on admission and 
steadily increased to 156 over her relatively short admission.  
It was thought that the weight gain was from the aggressive 
hydration that she was receiving with chemotherapy.  However, 
she did not show any clinical signs of overhydration - no edema, 
rhales, or elevated JVP were noted.  She was given lasix to try 
to even out her intake and output and she responded somewhat to 
it, but but she still remained 1 to 2 liters positive each day 
which likely contributed to her weight gain.  She was 
assymptomatic at discharge.

 
Medications on Admission:
Acyclovir 400 mg Capsule Q 8 hours
Atenolol 50 mg Tablet Q day
K Phos Di & Mono-Sod Phos Mono [Phospha 250 Neutral] 500 mg QTID
Potassium Chloride 40 mEq Tab Sust.Rel. Q day

 
Discharge Medications:
1. Neupogen 300 mcg/0.5 mL Syringe Sig: One (1)  Injection once 
a day for 10 days: Please administer one injection of neupogen 
once a day for ten days star date: ___ end date: ___.
Disp:*10 syringes* Refills:*0*
2. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Acyclovir 400 mg Tablet Sig: One (1) Tablet PO every eight 
(8) hours.  
4. Phospha 250 Neutral 250 mg Tablet Sig: Two (2) Tablet PO 
three times a day. Tablet(s) 
5. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal Sig: 
Two (2) Tab Sust.Rel. Particle/Crystal PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Follicular cell lymphoma

 
Discharge Condition:
afebrile, hemodynamically stable.

 
Discharge Instructions:
You were admitted to the hospital to receive chemotherapy for 
your lymphoma.  You received five days of chemotherapy with 
Etoposide, Doxorubicin, Vincristine, Cyclophosphamide and 
Prednisone.  You tolerated this well and did not have any side 
effects from the medication.  You did have some weight gain 
which was thought to be from the IV fluids you received.  You 
were given lasix, a diuretic, which helped to get rid of some of 
the water weight, but the rest will take some time to go away.

You did not have any changes to your home medications except 
that you should start taking Neupogen shots once a day starting 
on ___ for a total of ten days.  You should go to 
your local oncologist at ___ to have these shots 
administered.  You will come to clinic on ___ where ___ 
will draw your blood and determine at that time if you should 
continue the neupogen or stop.  You should continue to not take 
lisinopril or triamterene-hydrochlorothiazide until instructed 
to do so by your primary care doctor.

You should go to your follow up visit on ___ (see below)

You should also call your oncologist or return to the emergency 
room if you develop fevers or chills, nausea and vomiting to 
where you can't keep pills down, diarrhea, chest pain, shortness 
of breath, or other symptoms that are of concern.
 
Followup Instructions:
___